US05068320
6-(Cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-(hydroxymethyl)-2-furyl]-9H-purine (0.498 g, 1.7 mmoles), 4-dimethylaminopyridine (10 mg, 0.1 mmoles, Aldrich Chemical Co., Madison, Wis.), and triethylamine (2.0 mL, 14 mmoles, Aldrich Chemical Co., Madison, Wis.) were dissolved in 50 mL acetonitrile. Nonanoyl chloride (1.26 mL, 7.0 mmoles, Aldrich Chemical Co., Madison, Wis.) was added and the reaction was stirred at room temperature for 3 hours. The reaction was quenched with methanol and solvents were evaporated in vacuo. The residue was dissolved in 25 mL ethyl acetate and undissolved salts were removed by filtration. After evaporation of the ethyl acetate, the residue was dissolved in methanol and passed over a silica gel column (4.8×13 cm). The product containing fractions were combined, concentrated, and chromatographed on a Chromatotron (4 mm silica gel plate) in a mixture of hexane:acetone (80:20). Two separate subsequent runs on the Chromatotron (4 mm silica gel plate) with a mixture of chloroform:acetone (95:5) and a mixture of hexane:acetone (85:15) followed by lyophilization afforded 0.236 g of 6-(cyclopropylmethylamino)-9-((2R,5S)-5-[(nonanoyloxy)methyl]-tetrahydro-2-furyl)-9H-purine as an oil (32% yield).

reactant | 6-(Cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-(hydroxymethyl)-2-furyl]-9H-purine | 1.7 mmoles, 0.498 g | C1(CC1)CNC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H](CC1)CO | C14H19N5O2
reactant | triethylamine | 14 mmoles, 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | Nonanoyl chloride | 7.0 mmoles, 1.26 mL | C(CCCCCCCC)(=O)Cl | C9H17ClO
catalyst | 4-dimethylaminopyridine | 0.1 mmoles, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 6-(cyclopropylmethylamino)-9-((2R,5S)-5-[(nonanoyloxy)methyl]-tetrahydro-2-furyl)-9H-purine | 0.236 g, 32% yield | C1(CC1)CNC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H](CC1)COC(CCCCCCCC)=O | C23H35N5O3
